US08877949B2
To a 1000 mL round bottomed flask, 0.15 mol of 7-hydroxychromone, and then 2.50 g of 5% palladium carbon and 300 mL of ethanol were added. Subsequently, hydrogen was passed into the flask, and the reaction was carried out for 48 hours at 50° C. Palladium carbon was removed by sucking filtration, and ethanol was removed by rotary evaporation. Then 21.39 g of 7-hydroxychroman was obtained, with a yield of 92.4% and MS m/z (M)150.

reactant | 7-hydroxychromone | 0.15 mol | OC1=CC=C2C(C=COC2=C1)=O | C9H6O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 2.50 g | [C].[Pd]
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 7-hydroxychroman | 21.39 g, yield of 92.4% | OC1=CC=C2CCCOC2=C1 | C9H10O2
